US04816562
Into 5.2 ml (10.4 mmoles) of 2N HCl/AcOH was dissolved 2.3 g (2.6 mmoles) of Z-D-Orn(BOC)-Phe-Arg-CHA.HCl. After reacting it at room temperature for 2 hours, the product was precipitated in dry ether and the deposited crystalline product was collected by filtration and dried. Thus, crude Z-D-Orn-Phe-Arg-CHA.2HCl was obtained. It was purified by means of Toyopearl HW40F column with 30% AcOH as a developing solvent. Thus, 1.52 g (74.9%) of Z-D-Orn-Phe-Arg-CHA.2HCl was obtained.

reactant | HCl AcOH | 10.4 mmoles, 2N, 5.2 ml | Cl.CC(=O)O
reactant | Z-D-Orn(BOC)-Phe-Arg | 2.6 mmoles, 2.3 g | N([C@H](CCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C33H47N7O8
reactant | HCl | Cl | ClH
product | Z-D-Orn-Phe-Arg | 1.52 g, 74.9% | N([C@H](CCCN)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CCCNC(N)=N)C(=O)O)C(=O)OCC1=CC=CC=C1 | C28H39N7O6
